US07910613B2
5-(1-Methyl-1H-tetrazol-5-yl)-4-phenyl-thiazol-2-ylamine
2-(1-Methyl-1H-tetrazol-5-yl)-1-phenyl-ethanone (4.9 g, 24.2 mmol) was dissolved in 1,2-dichloroethane (150 mL) and ether (100 mL). Brom (1.24 mL, 24.2 mmol) was added. The reaction mixture was stirred at room temperature for 1 h. the solvent was removed in vacuo. The remenance was dissolved in ethanol (250 mL). Thiourea (3.67 g, 48.5 mmol) was added and the reaction mixture was heated at reflux for 20 min. The reaction mixture was poured into water/ice. Concentrated NaOH (aq) was added until pH=10. The mixture was filtered and the solid product was recrystallised from ethylacetate/hexane. Yield: 58%.

reactant | 2-(1-Methyl-1H-tetrazol-5-yl)-1-phenyl-ethanone | 24.2 mmol, 4.9 g | CN1N=NN=C1CC(=O)C1=CC=CC=C1 | C10H10N4O
reactant | Thiourea | 48.5 mmol, 3.67 g | NC(=S)N | CH4N2S
reactant | NaOH | [OH-].[Na+]
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 5-(1-Methyl-1H-tetrazol-5-yl)-4-phenyl-thiazol-2-ylamine | Yield: 58% | CN1N=NN=C1C1=C(N=C(S1)N)C1=CC=CC=C1 | C11H10N6S
